US05247085
Trifluoroacetic acid (2 ml) was added to an ice cooled solution of (S)-2-[bis-(t-butoxycarbonyl)amino]-9-[3-benzyloxy-2-(diethoxyphosphorylmethoxy]propoxy]-6-methoxypurine (1.65 g, 2.3 mmol) in dry dichloromethane (30 ml) an the resulting solution left for 2 hours. After warming to ambient temperature, 10% Pd-C (800 mg) was added and the mixture hydrogenated at ambient temperature and pressure for 2 hours. The reaction mixture was filtered, the catalyst washed with dichloromethane (20 ml), the filtrate washed with saturated aqueous sodium bicarbonate solution, brine, dried (MgSO4) and evaporated to leave a colourless viscous oil. Chromatography of the oil on silica gel using dichloromethane/methanol 95:5 as the initial eluant, then changing the eluant to dichloromethane/methanol 90:10 gave (S)-2-amino-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]-6-methoxypurine as a colourless oil (0.65 g, 67%). IR: νmax (film) 3360, 3230, 2990, 2940, 2910, 1620, 1585, 1500, 1485, 1455, 1390, 1335, 1265, 1240, 1165, 1120, 1060, 1025, 975, 825, 785 cm-1. 1H NMR: δH [(CD3)2SO] 1.23 (6H, t, J=7 Hz, (OCH2CH3)2), 3.45-3.60 (2H, m, collapses to d on D2O exchange, CH2OH), 3.70-3.85 (1H, m, CH), 3.96 (3H, s, OCH3), 3.9-4.15 (6H, m, (OCH2CH3, OCH2P), 4.31 (1H, dd, J=11.3 Hz, J=6.9 Hz, NOCHB), 4.45 (1H, dd, J =11.3 Hz, J=3 Hz, NOCHA), 4.84 (1H, t, J=5.5 Hz, D2O exchangeable OH), 6.59 (2H, br.s, D2O exchangeable NH2), 8.14 (3H, s, H-8). m/z: (FAB, thioglycerol matrix) 406 (MH+).

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-2-[bis-(t-butoxycarbonyl)amino]-9-[3-benzyloxy-2-(diethoxyphosphorylmethoxy]propoxy]-6-methoxypurine | 2.3 mmol, 1.65 g | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OC[C@H](COCC1=CC=CC=C1)OCP(=O)(OCC)OCC)OC)C(=O)OC(C)(C)C | C31H46N5O11P
reactant | dichloromethane methanol | ClCCl.CO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | Pd-C | 800 mg | [Pd] | Pd
product | (S)-2-amino-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]-6-methoxypurine | 0.65 g, 67% | NC1=NC(=C2N=CN(C2=N1)OC[C@H](CO)OCP(=O)(OCC)OCC)OC | C14H24N5O7P
